US03980795
A solution of 28.4 g of 3-(4'-fluoro-4-biphenylyl)-2-butenoic acid ethyl ester [obtainable by dehydrating 3-(4'-fluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester employing p-toluenesulfonic acid] and 25 g of hydrazine hydrate (100% strength) in 400 ml of ethanol is boiled for 18 hours. The mixture is cooled, poured onto ice water and worked up in the usual manner to give 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one, m.p. 194°-196°.

reactant | 3-(4'-fluoro-4-biphenylyl)-2-butenoic acid ethyl ester | 28.4 g | C(C)OC(C=C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C18H17FO2
reactant | hydrazine hydrate | 25 g | O.NN
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1(NNC(C1)=O)C | C16H15FN2O
